US04383945
To a solution of methyl 2-[(3S,4R)-4-chloro-3-{(1S)-1-(p-nitrobenzyloxycarbonyloxy)ethyl}-2-oxoazetidin-1-yl]-3-methylbut-2-enoate (180 mg) and allyltrimethylsilane (0.12 ml) in dichloromethane (2 ml) was added silver tetrafluoroborate (240 mg) at -78° C. under a nitrogen atmosphere. The stirring mixture was allowed to warm to 0° C. during 45 minutes and kept at the same temperature for one hour. The mixture was diluted with ethyl acetate (10 ml) and a saturated aqueous sodium chloride was added. The mixture was neutralized with a saturated aqueous sodium bicarbonate, diluted with additional ethyl acetate (20 ml) and filtered through a pad of cellurose powder. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel (11 g) eluting with 3-30% ethyl acetate in dichloromethane to give methyl 3-methyl-2-[(3S,4R)-3-{(1S)-1-(p-nitrobenzyloxycarbonyloxy)ethyl}-2-oxo-4-allylazetidin-1-yl]but-2-enoate (47 mg).

reactant | methyl 2-[(3S,4R)-4-chloro-3-{(1S)-1-(p-nitrobenzyloxycarbonyloxy)ethyl}-2-oxoazetidin-1-yl]-3-methylbut-2-enoate | 180 mg | Cl[C@@H]1[C@H](C(N1C(C(=O)OC)=C(C)C)=O)[C@H](C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C19H21ClN2O8
reactant | allyltrimethylsilane | 0.12 ml | C(C=C)[Si](C)(C)C | C6H14Si
reactant | sodium chloride | [Cl-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | silver tetrafluoroborate | 240 mg | F[B-](F)(F)F.[Ag+]
product | methyl 3-methyl-2-[(3S,4R)-3-{(1S)-1-(p-nitrobenzyloxycarbonyloxy)ethyl}-2-oxo-4-allylazetidin-1-yl]but-2-enoate | 47 mg | CC(=C(C(=O)OC)N1C([C@@H]([C@H]1CC=C)[C@H](C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)C | C22H26N2O8
